US07259178B2
A solution of 100 mg (0.23 mmol) of [2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-amine in CH2Cl2 was treated with 0.08 mL (0.46 mmol) of DIPEA and 0.07 mL (0.46 mmol) of 3-phenylpropionylchloride. The mixture was stirred at RT for 10 hours and treated with 0.4 mL of a 1 M TBAF-solution in THF. Evaporation of the solvent and column chromatography on silica gel with n-heptane/EtOAc 4:1 yielded 70 mg (67%) of N-[2-chloro-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-3-phenyl-propionamide, light yellow oil, MS: 454 (MH+, 1Cl).

reactant | [2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-amine | 0.23 mmol, 100 mg | ClC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)NCC | C17H24ClF6NOSi
reactant | DIPEA | 0.46 mmol, 0.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-phenylpropionylchloride | 0.46 mmol, 0.07 mL | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | TBAF | 1 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-chloro-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-3-phenyl-propionamide | 70 mg, 67% | ClC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)N(C(CCC1=CC=CC=C1)=O)CC | C20H18ClF6NO2
